US07612114B2
6-{2-{[4-(2-Azepan-1-ylethoxy)benzyl]ethylamino}-5-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol
Synthesized from 6-(2-ethylamino-5-methoxyphenyl)-5,6,7,8-tetrahydronaphthalen-2-ol according to an analogous synthetic method to Example 36, 6-(2-ethylamino-5-methoxyphenyl)-5,6,7,8-tetrahydronaphthalen-2-ol (40 mg) and 4-(2-azepan-1-ylethoxy)benzaldehyde (202 mg) were used according to an analogous synthetic method to Example 38 to provide the title compound (32 mg).

reactant | 6-(2-ethylamino-5-methoxyphenyl)-5,6,7,8-tetrahydronaphthalen-2-ol | C(C)NC1=C(C=C(C=C1)OC)C1CC=2C=CC(=CC2CC1)O | C19H23NO2
reactant | 6-(2-ethylamino-5-methoxyphenyl)-5,6,7,8-tetrahydronaphthalen-2-ol | 40 mg | C(C)NC1=C(C=C(C=C1)OC)C1CC=2C=CC(=CC2CC1)O | C19H23NO2
reactant | 4-(2-azepan-1-ylethoxy)benzaldehyde | 202 mg | N1(CCCCCC1)CCOC1=CC=C(C=O)C=C1 | C15H21NO2
product | 6-{2-{[4-(2-Azepan-1-ylethoxy)benzyl]ethylamino}-5-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol | 32 mg | N1(CCCCCC1)CCOC1=CC=C(CCCNC2=C(C=C(C=C2)OC)C2CC=3C=CC(=CC3CC2)O)C=C1 | C34H44N2O3
